US07842685B2
Trimethylsulfoxonium iodide (0.16 g, 0.72 mmol) and potassium tert-butoxide (0.080 g, 0.72 mmol) were combined in 1.5 mL DMSO to give a clear solution. A slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylvinyl)thiazolo[4,5-b]pyridine (0.200 g, 0.48 mmol) in 4 mL THF was added dropwise, rinsing with 1 mL THF. The reaction mixture was stirred overnight, and was then quenched with sat'd aq. NH4Cl and EtOAc. The organic layer was washed with water, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The material was treated with DCM and passed through a Redi-Sep® pre-packed silica gel column (12 g) using 0-70% EtOAc/hexane. The product-containing fractions were concentrated to afford 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[4,5-b]pyridine as a pale yellow solid. MS (ESI) m/z: calculated: 432.1; Observed: 433.1 (M++1).

reactant | Trimethylsulfoxonium iodide | 0.72 mmol, 0.16 g | [I-].C[S+](=O)(C)C
reactant | potassium tert-butoxide | 0.72 mmol, 0.080 g | CC(C)([O-])C.[K+]
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylvinyl)thiazolo[4,5-b]pyridine | 0.48 mmol, 0.200 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC=2C(=NC(=CC2)C(=C)C2=CC=CC=C2)N1)F | C24H19FN2O2S
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[4,5-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC=2C(=NC(=CC2)C2(CC2)C2=CC=CC=C2)N1)F | C25H21FN2O2S
